US05840732
vi) Synthesis of 7-(4-chlorobutyl)-9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
To a suspension of 3.28 g (16.5 mmol) of 9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione and 3.81 g (28.8 mmol) of potassium carbonate in 70 ml of N,N-dimethylformamide, 2.07 ml (36 mmol) of 1-bromo-4-chlorobutane was added at room temperature, followed by stirring at 60° C. for 2 hours and then at 100° C. for 3 hours. After cooling, the reaction mixture was concentrated to dryness. The residue was dissolved in dichloromethane-water; the organic layer was washed with water and dried. The oily substance obtained by distilling off the solvent was purified by column chromatography (eluent, n-hexane/ethyl acetate=5/1-2/1) to yield 3.24 g (67.9%, light yellow oily substance) of the desired product.

reactant | 9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 16.5 mmol, 3.28 g | CC=1C(NC(N2C1SCCC2)=O)=O | C8H10N2O2S
reactant | potassium carbonate | 28.8 mmol, 3.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 36 mmol, 2.07 ml | BrCCCCCl | C4H8BrCl
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 7-(4-chlorobutyl)-9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | ClCCCCN1C(N2C(SCCC2)=C(C1=O)C)=O | C12H17ClN2O2S
